US08530492B2
Preparation of 4-(pyridine-3-yl)pyridine-2-amine (compound 5):
3-(Dimethylamino)-1-(pyridine-3-yl)prop-2-en-1-one (15.4 g, 0.088 mol), guanidine nitrate (10.7 g, 0.088 mol), and sodium hydroxide (3.5 g, 0.088 mol) were dissolved in n-butanol (120 mL). The mixture was heated to reflux with stirring and maintained for 16 hours. The reaction mixture was then cooled to room temperature. The solid was collected and washed with water (400 mL). The desired product was dried under vacuum for three days and 12.7 g of yellow crystals of desired product was obtained (yield: 85%); 1H NMR (500 MHz, CDCl3) δ 5.15 (br., 2H), 7.09 (d, 1H), 7.44 (m, 1H), 8.33 (d, 1H), 8.42 (d, 1H), 8.73 (d, 1H), 9.22 (s, 1H). LC-MS (m/z) calculated, 172.2, found 173.2 [M+H]+.

reactant | 3-(Dimethylamino)-1-(pyridine-3-yl)prop-2-en-1-one | 0.088 mol, 15.4 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | guanidine nitrate | 0.088 mol, 10.7 g | [N+](=O)(O)[O-].NC(=N)N
reactant | sodium hydroxide | 0.088 mol, 3.5 g | [OH-].[Na+]
reactant | n-butanol | 120 mL | C(CCC)O | C4H10O
product | 4-(pyridine-3-yl)pyridine-2-amine | 12.7 g, yield: 85% | N1=CC(=CC=C1)C1=CC(=NC=C1)N | C10H9N3
